US04233299
0.5 ml of 48% hydrobromic acid and 1 ml of glacial acetic acid were added to 0.2 gm (0.55 millimols) of 4-methoxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-caboxamide-1,1-dioxide. After standing for 24 hours, the reaction mixture was heated for two hours on a water bath and was subsequently evaporated in vacuo to dryness. The residue was dissolved in methylene chloride, and the solution was washed with water. After drying and evaporating of the organic phase, 4-hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide was obtained with a yield of 0.1 gm (52% of theory).

reactant | hydrobromic acid | 0.5 ml | Br | BrH
reactant | 4-methoxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-caboxamide-1,1-dioxide | 0.55 millimols, 0.2 gm | COC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC=2SC(=CN2)C | C15H15N3O4S2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 4-hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC=2SC(=CN2)C | C14H13N3O4S2
